US08008298B2
To a solution of 1-[2-(3-methoxymethoxy-5-pyrrolidin-1-yl-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one (492 mg, 0.91 mmol) in CH2Cl2 (1.5 ml) was added a solution of 10% ethanolic hydrogen chloride (4 ml, dry). The flask was capped and stirred for 2.5 hours. The volatile material was stripped (rotovap). Ethyl acetate (25 ml) and aqueous 5% Na2CO3 (25 ml) was added and the 2 phase system vigorously stirred for 3 minutes. The material was partitioned and the organic phase collected and washed with brine (25 ml). The aqueous phases were back extracted with EtOAc (2×20 ml). The organics were combined, dried (MgSO4), filtered and stripped to provide a crude semi-solid. The material was purified by preparative TLC, eluting with 38% ethyl acetate in hexanes to afford 326 mg of 1-[2-(3-hydroxy-5-pyrrolidin-1-yl-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a yellow-brown solid.

reactant | 1-[2-(3-methoxymethoxy-5-pyrrolidin-1-yl-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 0.91 mmol, 492 mg | COCOC=1C=C(C=C(C1)N1CCCC1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C29H42N4O4Si
reactant | hydrogen chloride | 4 ml | Cl | ClH
reactant | Ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
reactant | Na2CO3 | 25 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
product | 1-[2-(3-hydroxy-5-pyrrolidin-1-yl-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | 326 mg | OC=1C=C(C=C(C1)N1CCCC1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C27H38N4O3Si
